US08258141B2
Pyridin-2-ylmethyl-carbamic acid phenyl ester
The title compound is prepared analogously to pyridin-3-yl-carbamic acid phenyl ester, by substituting C-pyridin-2-yl-methylamine for 3-aminopyridine.

reactant | pyridin-3-yl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1C=NC=CC1)=O | C12H10N2O2
reactant | 3-aminopyridine | NC=1C=NC=CC1 | C5H6N2
product | Pyridin-2-ylmethyl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NCC1=NC=CC=C1)=O | C13H12N2O2
